US06353111B1
A solution of triphenylphosphine (1.05 g, 4 mmol) in methylene chloride (15 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (712 mg, 4 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with a solution of (E)-4-cyclopentyl-2-(3,4-difluoro-phenyl)-but-2-enoic acid (0.63 g, 2.36 mmol) in methylene chloride (4 mL). The clear solution was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1.5 h. The reaction mixture was then treated with 2-aminothiazole (0.59 g, 5.9 mmol), and the resulting suspension was stirred at 25° C. over the weekend. The reaction mixture was concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (100 mL) and a 1N aqueous hydrochloric acid solution (100 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×50 mL). The combined organic extracts were successively washed with a saturated aqueous sodium bicarbonate solution (2×50 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 8/1 hexanes/ethyl acetate) afforded (E)-4-cyclopentyl-2-(3,4-difluoro-phenyl)-but-2-enoic acid thiazol-2-ylamide (435 mg, 53%) as an amorphous solid: EI-HRMS m/e calcd for C18H18F2N2OS (M+) 348.1108, found 348.1103.

reactant | triphenylphosphine | 4 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 4 mmol, 712 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-4-cyclopentyl-2-(3,4-difluoro-phenyl)-but-2-enoic acid | 2.36 mmol, 0.63 g | C1(CCCC1)C/C=C(/C(=O)O)\C1=CC(=C(C=C1)F)F | C15H16F2O2
reactant | 2-aminothiazole | 5.9 mmol, 0.59 g | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (E)-4-cyclopentyl-2-(3,4-difluoro-phenyl)-but-2-enoic acid thiazol-2-ylamide | 435 mg, 53% | S1C(=NC=C1)NC(\C(=C\CC1CCCC1)\C1=CC(=C(C=C1)F)F)=O | C18H18F2N2OS
